US07329658B2
Preparation of Intermediate 1-[7-(2-Chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic Acid Amide (I-6A-1a)
To a solution of 3-ethylaminoazetidine-3-carboxylic acid amide (I-2A-1g; 0.55 g, 2.5 mmol) and diisopropylethylamine (1.3 ml, 7.6 mmol) in DMF (10 ml) was added a solution of 4-chloro-7-(2-chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-1A-1e; 0.93 g, 2.3 mmol) in methylene chloride (10 ml). After stirring 2 hours, the methylene chloride was removed, in vacuo, and the mixture was extracted from water, adjusted to pH 8 with saturated aqueous NaHCO3, with ethyl acetate. The combined organic layers were washed with water and brine, dried (MgSO4), and then concentrated, in vacuo, to afford a yellow solid. The material was then triturated from methylene chloride/methanol to afford I-6A-1a (0.73 g, 62%) as a colorless solid: +APcI MS (M+1) 512.0; 1H NMR (400 MHz, CDCl3) δ 7.51 (d, J=7.9 Hz, 1H), 7.43-7.34 (m, 3H), 6.99 (d, J=4.7 Hz, 1H), 5.42 (d, J=4.7 Hz, 1H), 5.24 (br d, J=9.5 Hz, 1H), 4.81 (br d, J=9.5 Hz, 1H), 4.69 (br d, J=9.5 Hz, 1H), 4.13 (br d, J=9.5 Hz, 1H), 2.68-2.58 (m, 2H), 2.54 (s, 3H), 1.16 (t, J=7.0 Hz, 3H).

reactant | 3-ethylaminoazetidine-3-carboxylic acid amide | 2.5 mmol, 0.55 g | C(C)NC1(CNC1)C(=O)N | C6H13N3O
reactant | diisopropylethylamine | 7.6 mmol, 1.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloro-7-(2-chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazine | 2.3 mmol, 0.93 g | ClC1=NC(=NC=2N1N=C(C2I)C2=C(C=CC=C2)Cl)C | C12H7Cl2IN4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[7-(2-Chlorophenyl)-8-iodo-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-3-ethylaminoazetidine-3-carboxylic Acid Amide | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2CC(C2)(C(=O)N)NCC)C)=C1I | C18H19ClIN7O
